US07622480B2
A. Preparation of 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid methyl ester
This compound was prepared following the procedure described in example 4, part E, starting with 0.98 g (3.58 mmol) of 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 0.92 g (4.29 mmol) of 2-(2-chloroethoxy)benzoic acid methyl ester. After standard work-up and purification, 0.58 g (36% of yield) of the expected product were obtained.

reactant | 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 3.58 mmol, 0.98 g | C(C)OCCN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C16H23N3O
reactant | 2-(2-chloroethoxy)benzoic acid methyl ester | 4.29 mmol, 0.92 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOCC)=O | C26H33N3O4
